US04760163
using 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoic acid via the corresponding acid chloride and tert.butanol there is obtained tert.butyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3yl)-benzoate, 1H--NMR (CDCl3, 400 MHz) 7.76 ppm (d, 1H), 7.31 ppm (d, 1H), 3.41 ppm (s, 3H), 2.94 ppm (m, 2H), 2.81 ppm (m, 2H), 2.17 ppm (m 2H), 1.57 ppm (s, 9H).

reactant | 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O | C15H12ClFN2O4
solvent | tert.butanol | C(C)(C)(C)O | C4H10O
product | tert.butyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3yl)-benzoate | ClC1=C(C(=O)OC(C)(C)C)C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O | C19H20ClFN2O4
